US04241072
A. Ethyl 3-methylamino-3-iminopropionate Hydrochloride
To a solution of 7.0 gm. (0.22 mole) of methylamine dissolved in 50 ml. of absolute ethanol at ice-bath temperature is added 41.4 gm. (0.207 mole) of ethyl ethoxycarbonylacetimidate hydrochloride. The reaction mixture is allowed to warm to room temperature and stirred for 5 hours. The solvent is removed and a mixture of acetone-ether is added to induce crystallization. 36.8 Gm. of crystalline product is collected as the hydrochloride salt.

reactant | methylamine | 0.22 mole | CN | CH5N
reactant | ethyl ethoxycarbonylacetimidate hydrochloride | 0.207 mole | Cl.C(C)OC(=O)CC(OCC)=N
solvent | ethanol | C(C)O | C2H6O
product | Ethyl 3-methylamino-3-iminopropionate Hydrochloride | Cl.CNC(CC(=O)OCC)=N | InChI=1S/C6H12N2O2.ClH/c1-3-10-6(9)4-5(7)8-2;/h3-4H2,1-2H3,(H2,7,8);1H
